US07687502B2
[6-(Pyridin-2-ylsulfanyl)-quinazolin-4-yl]-thiazolo-[5,4-b]pyridin-2-yl-amine
The compound of Example 10 was manufactured by the same method as in Example 1, by a similar method thereto or by a combination of such a method with a conventional method using 4-chloro-6-iodo-quinazoline, thiazolo[5,4-b]pyridin-2-yl-amine and 2-mercaptopyridine.

reactant | 4-chloro-6-iodo-quinazoline | ClC1=NC=NC2=CC=C(C=C12)I | C8H4ClIN2
reactant | thiazolo[5,4-b]pyridin-2-yl-amine | N1=C(SC2=NC=CC=C21)N | C6H5N3S
reactant | 2-mercaptopyridine | SC1=NC=CC=C1 | C5H5NS
product | [6-(Pyridin-2-ylsulfanyl)-quinazolin-4-yl]-thiazolo-[5,4-b]pyridin-2-yl-amine | N1=C(C=CC=C1)SC=1C=C2C(=NC=NC2=CC1)NC=1SC2=NC=CC=C2N1 | C19H12N6S2
